US04395406
4-Butylthio-5-fluoropyrimid-2-one
n-Butyl bromide (0.007 mol) was added to a solution of the potassium salt of 5-fluoro-4-thiouracil (0.006 mol) in dimethylformamide (30 ml) and the reaction mixture was stirred at room temperature for 3 days before evaporation at reduced pressure (1 mm Hg). The desired product was isolated from the residue by preparative paper chromatography (Whatman No. 3) using butanol:ethanol:ammonia:water (4:1:2:1); yield 20%, m.p. 113° C. (H2O). (Found: C, 47.20; H, 5.30. Calc. for C8H11FN2OS: C, 47.52; H, 5.48).

reactant | n-Butyl bromide | 0.007 mol | C(CCC)Br | C4H9Br
reactant | potassium | [K] | K
reactant | 5-fluoro-4-thiouracil | 0.006 mol | FC=1C(NC(NC1)=O)=S | C4H3FN2OS
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-Butylthio-5-fluoropyrimid-2-one | yield 20% | C(CCC)SC1=NC(NC=C1F)=O | C8H11FN2OS
